US08541404B2
To a solution of 6-bromo-3,4-dihydroquinoxalin-2(1H)-one (370 mg, 1.63 mmol) in 10 ml methanol was added a solution of 37% formaldehyde in water (59 mg, 1.95 mmol) and acetic acid (196 mg, 3.26 mmol). The mixture was stirred at room temperature for 2 h, then refluxed for 1 h. After addition of NaBH3CN (307 mg, 4.89 mmol) stirring was continued for 2.5 h at room temperature. Then methanol was removed under vacuum. To the remaining mixture water was added. Then the solution was basified to pH 8-9 with an aqueous solution of sodium hydrogen carbonate and extracted several times with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4 and evaporated, affording 6-bromo-4-methyl-3,4-dihydroquinoxalin-2(1H)-one (369 mg, 1.53 mmol, 94%) as off-white solid.

reactant | 6-bromo-3,4-dihydroquinoxalin-2(1H)-one | 1.63 mmol, 370 mg | BrC=1C=C2NCC(NC2=CC1)=O | C8H7BrN2O
reactant | formaldehyde | C=O | CH2O
reactant | water | 1.95 mmol, 59 mg | O | H2O
reactant | acetic acid | 3.26 mmol, 196 mg | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 4.89 mmol, 307 mg | [BH3-]C#N.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-bromo-4-methyl-3,4-dihydroquinoxalin-2(1H)-one | 1.53 mmol, 369 mg, 94% | BrC=1C=C2N(CC(NC2=CC1)=O)C | C9H9BrN2O
